US07674801B2
N-(4-Bromopyridin-2-yl)-N′-ethylurea
To a mixture of 4-bromopyridin-2-amine (2 g, 11.56 mmol) in chloroform (10 mL), isocyanatoethane (0.913 mL, 11.56 mmol) was added, and the resulting reaction mixture was heated at 110° C. for 2 h. The reaction mixture was concentrated under reduced pressure and triturated with acetonitrile, then collected by filtered to give the title compound as a white solid (2.15 g).

reactant | 4-bromopyridin-2-amine | 11.56 mmol, 2 g | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | isocyanatoethane | 11.56 mmol, 0.913 mL | N(=C=O)CC | C3H5NO
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Bromopyridin-2-yl)-N′-ethylurea | 2.15 g | BrC1=CC(=NC=C1)NC(=O)NCC | C8H10BrN3O
